US04719203
cis-3-(2-Aminocyclohexyl)-1-hydroxypropane-1,1-diphosphonic acid
From the cis-trans mixture of 3-(2-acetylaminocyclohexyl)-propionic acid described in Example 10, by recrystallisation from water there is obtained the pure cis-compound (yield 32% of theory; m.p. 131°-133° C.), the reaction of which with phosphorus trichloride/phosphorous acid takes place analogously to Example 1. The course of the splitting off of the acetyl radical by heating in hydrochloric acid is monitored by means of thin layer electrophoresis.

reactant | 3-(2-acetylaminocyclohexyl)-propionic acid | C(C)(=O)NC1C(CCCC1)CCC(=O)O | C11H19NO3
reactant | phosphorus trichloride phosphorous acid | P(Cl)(Cl)Cl.P(O)(O)O
solvent | hydrochloric acid | Cl | ClH
product | cis-3-(2-Aminocyclohexyl)-1-hydroxypropane-1,1-diphosphonic acid | yield 32% | N[C@@H]1[C@@H](CCCC1)CCC(P(O)(=O)O)(P(O)(=O)O)O | C9H21NO7P2
